US07199257B1
N-[4-cyano-3-trifluoromethyl-phenyl]-2-hydroxy-3-[4-bromophenyl-sulfonyloxy]-2-methyl-propionamide
A solution of 5 g (17.35 mmol) of N-[4-cyano-3-trifluoromethyl-phenyl]-2,3-dihydroxy-2-methyl-propionamide in 50 ml of dry pyridine was cooled to 0° C. and 8.86 g (34.70 mmol) of 4-bromo-benzenesulfonyl chloride was added in small portions. The mixture was stirred at 0° C. for 5 h, then diluted with 200 ml of dichloromethane, washed three times with 50 ml of saturated aqueous sodium hydrogencarbonate, twice with 50 ml of 10% aqueous hydrochloric acid and 50 ml of brine. The organic layer was dried over sodium sulfate and concentrated in vacuum. The residue was crystallized from a 1:5 mixture of ethyl acetate/petroleum ether, which has a boiling range of 40–70° C.

reactant | N-[4-cyano-3-trifluoromethyl-phenyl]-2,3-dihydroxy-2-methyl-propionamide | 17.35 mmol, 5 g | C(#N)C1=C(C=C(C=C1)NC(C(CO)(C)O)=O)C(F)(F)F | C12H11F3N2O3
reactant | 4-bromo-benzenesulfonyl chloride | 34.70 mmol, 8.86 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-[4-cyano-3-trifluoromethyl-phenyl]-2-hydroxy-3-[4-bromophenyl-sulfonyloxy]-2-methyl-propionamide | C(#N)C1=C(C=C(C=C1)NC(C(COS(=O)(=O)C1=CC=C(C=C1)Br)(C)O)=O)C(F)(F)F | C18H14BrF3N2O5S
